US05073559
reaction of 4-methyl-2-propoxybenzamide (I196 g) with triethyloxonium tetrafluoroborate yielded crude ethyl 4-methyl-2-propoxybenzimidate tetrafluoroborate which on reaction with a saturated solution of ethanolic ammonia and treatment with hydrochloric acid yielded 4-methyl-2-propoxybenzamidine hydrochloride, (8.74 g), m.p. 228°-30° C.;

reactant | 4-methyl-2-propoxybenzamide | CC1=CC(=C(C(=O)N)C=C1)OCCC | C11H15NO2
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
product | ethyl 4-methyl-2-propoxybenzimidate tetrafluoroborate | F[B-](F)(F)F.CC1=CC(=C(C(OCC)=N)C=C1)OCCC | InChI=1S/C13H19NO2.BF4/c1-4-8-16-12-9-10(3)6-7-11(12)13(14)15-5-2;2-1(3,4)5/h6-7,9,14H,4-5,8H2,1-3H3;/q;-1
